US09302996B2
In trifluoroacetic acid (3.1 mL) and water (0.3 mL) was dissolved 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl]oxy)methyl}cyclobutanecarboxylic acid (312 mg), and the mixture was allowed to stand at room temperature for 60 hours. The reaction mixture was concentrated under reduced pressure, subjected to azeotropic distillation with acetic acid, isopropyl ether was added to the obtained residue, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 1-[({5′-chloro-4-methyl-6′-[5-(trifluoromethyl)-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylic acid (151 mg).

reactant | 1-[({5′-chloro-4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl]oxy)methyl}cyclobutanecarboxylic acid | 312 mg | ClC=1C=C(C=NC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C=NC(=CC1C)OCC1(CCC1)C(=O)O | C27H32ClF3N4O4Si
solvent | trifluoroacetic acid | 3.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.3 mL | O | H2O
product | 1-[({5′-chloro-4-methyl-6′-[5-(trifluoromethyl)-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]cyclobutanecarboxylic acid | 151 mg | ClC=1C=C(C=NC1C=1NC(=CN1)C(F)(F)F)C=1C=NC(=CC1C)OCC1(CCC1)C(=O)O | C21H18ClF3N4O3
